US04698340
To a mixture of 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid (5 g), dichloromethane (45 ml) and N,N-dimethylformamide (11 ml), thionyl chloride (2.1 g) was added at 7° C. under ice cooling. After stirring for 1.5 hours at the same condition, to a solution of N-methylpiperazine (3.7 g) in dichloromethane (37 ml), the reaction mixture was added under ice cooling and stirred for 2 hours. The reaction mixture was adjusted to pH=8.5 by saturated potassium carbonate and extracted with chloroform. The organic layer was washed with water and brine and dried over magnesium sulfate. The solvent was distilled off to give a residue, which was chromatographed on alumina eluting with a chloroform. The fractions containing the desired product were combined and concentrated in vacuo. The crystalline residue was recrystallized from diethyl ether to afford 6-methyl-5-(4-methylpiperazin-1-ylcarbonyl)-4-(3-nitrophenyl)-2-phenyl-pyrimidine (3.5 g).

reactant | 6-methyl-4-(3-nitrophenyl)-2-phenyl-5-pyrimidinecarboxylic acid | 5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C18H13N3O4
reactant | thionyl chloride | 2.1 g | S(=O)(Cl)Cl | Cl2OS
reactant | N-methylpiperazine | 3.7 g | CN1CCNCC1 | C5H12N2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 37 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 45 ml | ClCCl | CH2Cl2
solvent | N,N-dimethylformamide | 11 ml | CN(C=O)C | C3H7NO
product | 6-methyl-5-(4-methylpiperazin-1-ylcarbonyl)-4-(3-nitrophenyl)-2-phenyl-pyrimidine | 3.5 g | CC1=C(C(=NC(=N1)C1=CC=CC=C1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)N1CCN(CC1)C | C23H23N5O3
